data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1ccc(Br)cc1)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(Br)cc1)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(Br)cc1)C(C)C", "products": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2ccc(Br)cc2)O1"}, {"reactants": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2ccc(Br)cc2)O1", "products": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2ccc(Br)cc2)O1"}, {"reactants": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2ccc(Br)cc2)O1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2ccc(Br)cc2)O1"}, {"reactants": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2ccc(Br)cc2)O1", "products": "CC(C)C1CC(CC=O)[Si](c2ccccc2)(c2ccc(Br)cc2)O1.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "Cc1ccc(S(=O)(=O)OC2C3OC(C)(OC3F)C(OS(=O)(=O)c3ccc(C)cc3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2=CC3(C)OC(F)C(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2=CC3(C)OC(F)C(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3(C)OC(F)C2O3)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3(C)OC(F)C2O3)cc1", "products": "CC12OC(F)C(O1)C1C(=O)C12"}, {"reactants": "CC12OC(F)C(O1)C1C(=O)C12.[O-]C", "products": "COC1([O-])C2C3OC(C)(OC3F)C21"}, {"reactants": "COC1([O-])C2C3OC(C)(OC3F)C21.CO", "products": "COC(=O)C1CC2OC1(C)OC2F"}]}
{"conditions": [], "steps": [{"reactants": "ON[C@@H]1C(Cl)[C@H](CCl)C[C@H]2CC=CC[C@H]21.C=O", "products": "[O-]C[NH+](O)[C@@H]1C(Cl)[C@H](CCl)C[C@H]2CC=CC[C@H]21"}, {"reactants": "[O-]C[NH+](O)[C@@H]1C(Cl)[C@H](CCl)C[C@H]2CC=CC[C@H]21", "products": "OCN(O)[C@@H]1C(Cl)[C@H](CCl)C[C@H]2CC=CC[C@H]21"}, {"reactants": "OCN(O)[C@@H]1C(Cl)[C@H](CCl)C[C@H]2CC=CC[C@H]21", "products": "C=[N+](O)[C@@H]1C(Cl)[C@H](CCl)C[C@H]2CC=CC[C@H]21.[OH-]"}, {"reactants": "C=[N+](O)[C@@H]1C(Cl)[C@H](CCl)C[C@H]2CC=CC[C@H]21", "products": "C=[N+]([O-])[C@@H]1C(Cl)[C@H](CCl)C[C@H]2CC=CC[C@H]21"}, {"reactants": "C=[N+]([O-])[C@@H]1C(Cl)[C@H](CCl)C[C@H]2CC=CC[C@H]21", "products": "ClC[C@@H]1C[C@H]2CC3O[N@]4CC3C[C@H]2[C@H]4C1Cl"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "O=C(c1cccc(Cl)c1F)C1C2CCC1C2", "products": "[O][C](c1cccc(Cl)c1F)C1C2CCC1C2"}, {"reactants": "[O][C](c1cccc(Cl)c1F)C1C2CCC1C2", "products": "[O]C(=CC1C[CH]CC1)c1cccc(Cl)c1F"}, {"reactants": "[O]C(=CC1C[CH]CC1)c1cccc(Cl)c1F", "products": "OC(=CC1C=CCC1)c1cccc(Cl)c1F"}, {"reactants": "OC(=CC1C=CCC1)c1cccc(Cl)c1F", "products": "O=C(CC1C=CCC1)c1cccc(Cl)c1F"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "CCC12OCC(O1)C(OS(=O)(=O)c1ccc(C)cc1)C(OS(=O)(=O)c1ccc(C)cc1)C2OS(=O)(=O)c1ccc(C)cc1.[O-]C", "products": "CCC12C=C(OS(=O)(=O)c3ccc(C)cc3)C(OS(=O)(=O)c3ccc(C)cc3)C(CO1)O2"}, {"reactants": "CCC12C=C(OS(=O)(=O)c3ccc(C)cc3)C(OS(=O)(=O)c3ccc(C)cc3)C(CO1)O2.[O-]C", "products": "CCC12C=C([O-])C(OS(=O)(=O)c3ccc(C)cc3)C(CO1)O2"}, {"reactants": "CCC12C=C([O-])C(OS(=O)(=O)c3ccc(C)cc3)C(CO1)O2", "products": "CCC12OCC(O1)C1C(=O)C12"}, {"reactants": "CCC12OCC(O1)C1C(=O)C12.[O-]C", "products": "CCC12OCC(O1)C1C2C1([O-])OC"}, {"reactants": "CCC12OCC(O1)C1C2C1([O-])OC.CO", "products": "CCC12OCC(CC1C(=O)OC)O2"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "COc1cc(C)ccc1C1(O)C(=O)CC2CCC1(C)C2(C)C.[H+]", "products": "COc1cc(C)ccc1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C"}, {"reactants": "COc1cc(C)ccc1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C", "products": "COc1cc(C)ccc1[C+]1C(=O)CC2CCC1(C)C2(C)C.O"}, {"reactants": "COc1cc(C)ccc1[C+]1C(=O)CC2CCC1(C)C2(C)C", "products": "COc1cc(C)ccc1C12CCC(CC1=O)C(C)(C)[C+]2C"}, {"reactants": "COc1cc(C)ccc1C12CCC(CC1=O)C(C)(C)[C+]2C", "products": "COc1cc(C)ccc1C1=C(C)C(C)(C)C(C#[O+])CC1"}, {"reactants": "COc1cc(C)ccc1C1=C(C)C(C)(C)C(C#[O+])CC1.O", "products": "COc1cc(C)ccc1C1=C(C)C(C)(C)C(C(=O)[OH2+])CC1"}, {"reactants": "COc1cc(C)ccc1C1=C(C)C(C)(C)C(C(=O)[OH2+])CC1", "products": "COc1cc(C)ccc1C1CCC(C(=O)O)C(C)(C)[C+]1C"}, {"reactants": "COc1cc(C)ccc1C1CCC(C(=O)O)C(C)(C)[C+]1C", "products": "COc1cc(C)ccc1C1CCC2C(=O)[OH+]C1(C)C2(C)C"}, {"reactants": "COc1cc(C)ccc1C1CCC2C(=O)[OH+]C1(C)C2(C)C", "products": "COc1cc(C)ccc1C1CCC2C(=O)OC1(C)C2(C)C.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "CN(C(=O)C1=CCCC1)c1c(Br)ccc(Cl)c1F.[Pd]", "products": "CN(C(=O)C1=CCCC1)c1[c]([Pd][Br])ccc(Cl)c1F"}, {"reactants": "CN(C(=O)C1=CCCC1)c1[c]([Pd][Br])ccc(Cl)c1F", "products": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2c1ccc(Cl)c2F"}, {"reactants": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2c1ccc(Cl)c2F", "products": "CN1C(=O)C2(C=CCC2)c2c1ccc(Cl)c2F.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
